US06627651B1
To methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (327 mg, 1.50 mmol) dissolved in DMF (6 ml) were added potassium carbonate (415 mg, 3.00 mmol) and 2,6-difluorobenzyl chloride (268 mg, 1.65 mmol), and the resulting mixture was stirred at room temperature for 24 hours. The reaction mixture was concentrated under reduced pressure, ethyl acetate (40 ml) was added to the residue and the resulting mixture was washed with water (5 ml×2) and an aqueous saturated solution of sodium chloride (5 ml). The organic layer was dried with anhydrous magnesium sulfate and was then concentrated under reduced pressure, and the residue was subjected to column chromatography (silica gel: 15 g, ethyl acetate/hexane=1/25). The objective fractions were concentrated under reduced pressure to obtain methyl 2-(2,6-difluorobenzyloxy)-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (507 mg, 1.47 mmol, 98%).

reactant | methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.50 mmol, 327 mg | OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C13H14O3
reactant | potassium carbonate | 3.00 mmol, 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-difluorobenzyl chloride | 1.65 mmol, 268 mg | FC1=C(CCl)C(=CC=C1)F | C7H5ClF2
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | methyl 2-(2,6-difluorobenzyloxy)-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.47 mmol, 507 mg, 98% | FC1=C(COC=2C=CC3=C(C=C(CCC3)C(=O)OC)C2)C(=CC=C1)F | C20H18F2O3
